US08232284B2
Preparation of 6-({5-[2-(isopropylamino)ethoxy]pyridin-2-yl}oxy)-N-(5-methylpyrazin-2-yl)quinazoline-4-amine
Using 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol, 5-(2,2-diethoxyethoxy)-2-fluoropyridine and isopropylamine, and in the same manner as in Example 31 or according to a method similar to it or according to a combination thereof with an ordinary method, the entitled compound (62 mg) was obtained as a pale yellow solid.

reactant | 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)O | C13H11N5O
reactant | 5-(2,2-diethoxyethoxy)-2-fluoropyridine | C(C)OC(COC=1C=CC(=NC1)F)OCC | C11H16FNO3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-({5-[2-(isopropylamino)ethoxy]pyridin-2-yl}oxy)-N-(5-methylpyrazin-2-yl)quinazoline-4-amine | 62 mg | C(C)(C)NCCOC=1C=CC(=NC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NC=C(N=C1)C | C23H25N7O2
